US05114615
(1) Synthesis of 4-Heptyloxybenzoic acid
Using ethyl p-hydroxybenzoate (33.3 g, 0.20 mol) and n-heptyl bromide (39.4 g, 0.22 mol), the reaction was carried out in the same manner as described in Example 21, (1), and then recrystallized from ethanol to give the title compound as a white microneedles; yield: 19.0 g (40.2%); mp 86.2°-90.3° C.

reactant | ethyl p-hydroxybenzoate | 0.20 mol, 33.3 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | n-heptyl bromide | 0.22 mol, 39.4 g | C(CCCCCC)Br | C7H15Br
product | 4-Heptyloxybenzoic acid | C(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C14H20O3
